US08202873B2
Racemic 1-(2-Hydroxy-propyl)-1H-pyrazole-4-carbaldehyde
Combine 1H-pyrazole-4-carbaldehyde (0.150 g, 1.56 mmol), racemic 1-bromo-2-propanol (0.260 g, 1.87 mmol), and potassium carbonate (0.323 g, 2.34 mmol) in acetonitrile (2 mL). Heat in microwave at 150° C. for 20 min. Filter, wash with acetonitrile and concentrate filtrate. Purify via silica gel chromatography, eluting with 0:100 to 100:0 ethyl acetate:hexanes) to give the title preparation (177 mg, 73%). GC-MS: m/z=154 [M+].

reactant | 1H-pyrazole-4-carbaldehyde | 1.56 mmol, 0.150 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | racemic 1-bromo-2-propanol | 1.87 mmol, 0.260 g | BrCC(C)O | C3H7BrO
reactant | potassium carbonate | 2.34 mmol, 0.323 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Racemic 1-(2-Hydroxy-propyl)-1H-pyrazole-4-carbaldehyde | OC(CN1N=CC(=C1)C=O)C | C7H10N2O2
